US09056873B2
A mixture of bis(triphenylphosphine)palladium chloride (10.51 mg, 0.015 mmol), tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (150 mg, 0.299 mmol), and 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-pyrrolizin-1-one (148 mg, 0.599 mmol) in dioxane (4 mL) and saturated aqueous NaHCO3 (1 mL) was heated to 100° C. in a Biotage Initiator microwave for 1 hour. The mixture was concentrated to give the intermediate, tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-7-fluoro-3-oxo-4-(1-oxo-2,3-dihydro-1H-pyrrolizin-6-yl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate, which was subsequently dissolved in DCM (5 mL) and TFA (5 mL). The resulting solution was stirred at room temperature for 20 minutes, concentrated, and purified by preparatory HPLC, eluting with a gradient of 10-40% ACN (0.035% TFA) and water (0.05% TFA). The collected fractions were combined and dried to give a TFA salt of the title compound as a white solid (7 mg, 6%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.75-1.78 (m, 1H), 2.10-2.11 (m, 1H), 3.01-3.04 (m, 2H), 3.34-3.34 (m, 1H), 3.66-3.67 (m, 1H), 3.76-3.78 (m, 1H), 3.84-3.86 (m, 1H), 3.95-3.97 (m, 1H), 4.37-4.39 (m, 4H), 4.50-4.51 (m, 1H), 7.05 (d, J=6.35 Hz, 1H), 7.60 (s, 1H), 7.90-7.92 (m, 2H), 8.43 (s, 1H), 8.56 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C19H20FN5O3, 386. found, 386.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.299 mmol, 150 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-pyrrolizin-1-one | 0.599 mmol, 148 mg | CC1(OB(OC1(C)C)C1=CN2CCC(C2=C1)=O)C | C13H18BNO3
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
catalyst | bis(triphenylphosphine)palladium chloride | 0.015 mmol, 10.51 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-7-fluoro-3-oxo-4-(1-oxo-2,3-dihydro-1H-pyrrolizin-6-yl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C1=CN3CCC(C3=C1)=O)C(N(C2)C(=O)OC(C)(C)C)=O)F | C29H36FN5O7
